2160-09-02 05:07:00 Physician Resident Progress Note
Chief Complaint: 71 yo man w/ CAD, AVR, afib, h/o GIB who presents with
   lightheadedness, fatigue and hematocrit drop.
   24 Hour Events:
   Received 2 units of pRBCs. Hct inc. from 24->28.  This AM hct 26, so pt
   given 3^rd unit.
   Had episode of SBP 80s -> 500cc NS bolus and SBP inc. to 120s
   Seen by GI - no plan for scope at this time
   Trop trended up to 0.25, CK flat, CP free
   Hemolysis labs negative.
   History obtained from Patient
   Allergies:
   History obtained from PatientTape (Topical) (Adhesive Tape)
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-1**] 09:05 AM
   Metronidazole - [**2160-9-1**] 09:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-2**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2160-9-2**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 65 (65 - 67) bpm
   BP: 109/68(77) {66/18(46) - 129/94(98)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  2,066 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    560 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                  2,235 mL
                                                                    540 mL
   Urine:
                                                                  2,135 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Physical Examination
   General Appearance: well appearing, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal),  mechanical S2, Systolic murmur, II/VI
   along LSB
   Respiratory / Chest: (Breath Sounds: Clear : , No Crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: venous stasis changes
   Skin:  feet are cool
   Neurologic: Attentive, Follows commands and answers all questions
   appropriately
   Labs / Radiology
   133 K/uL
   8.0 g/dL
   101 mg/dL
   2.2 mg/dL
   20 mEq/L
   5.7 mEq/L
   130 mg/dL
   108 mEq/L
   140 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
   WBC
   7.3
   Hct
   24.2
   28.1
   26.6
   Plt
   134
   Cr
   2.5
   2.2
   TropT
   0.10
   0.25
   Glucose
   115
   105
   Other labs: INR:5.3, CK / CKMB / Troponin-T:70/9/0.25, Alk Phos / T
   Bili:/0.3, LDH:258 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   71 yo man w/ CAD s/p CABG, s/p mechanical AVR, afib, EF 25-30%, h/o
   GIB, chronic anemia, CKD [**2-9**] lupus nephritis, who presents with
   lightheadedness & fatigue in the setting of a drop in his hematocrit
   and acute renal failure.
   # Acute on chronic anemia: Hct 28 in ED, then 24 on repeat in MICU
   after 1L IVF.  Down from baseline of low 30s--hct was 34 about 5 days
   ago.  Pt reports dark stool over last few days. No N/V/abd pain. H/o
   duodenitis on EGD from [**2158**] & gastritis on prior.  [**Last Name (un) 236**] from [**2156**] w/
   Grade 1 internal hemorrhoids & diverticulosis of the sigmoid colon.  In
   ED, G+ brown stool. Did not NG lavage in ED. Suspect pt has GIB given
   the above findings along w/ excessively elevated BUN (out of proportion
   to Crt).  Suspect UGIB rather than LGIB.  Also, of note, pt's INR
   supratherapeutic.  Hemolysis labs are negative. Pt currently HD, though
   he did have transient drop in SBP (80mmHg) after getting up to commode
   .  Got 2uPRBCs w/ inappropriate response.  Hct 26 this AM.  Pt given
   3^rd unit this AM.
   - Two large bore IV
   - Transfuse additional 1 PRBC (may need lasix following)
   - IV PPI [**Hospital1 **]
   - F/u GI recs
no plans at present to scope, unless pt becomes unstable
   or does not adequately respond to transfusion
   - hold coumadin.  Will give 5mg PO vit K given INR rising (4.5->5.3).
   #  Status post mechanical aortic valve replacement: requires regular
   anticoag.  INR 2.5-3 goal.  Currently 5.3.
   - hold coumadin & given 5mg PO vitamin K since INR rising.  Will need
   to check [**Hospital1 **] INRs for few days to be sure pt does not undershoot.  If
   INR <2-2.5, would need to start heparin.
   # Acute on chronic renal failure: suspect prerenal & related to
   GIB/poor PO intake.  Improving after IVF: 2.9-->2.5
2.2.  Baseline
   1.5-1.7 due to lupus nephritis/HTN.
   - Renally dose meds
   - hold lasix & [**Last Name (un) 239**]
   # Elevated/Rising Troponin: 0.07
0.25 in setting of flat/nml CKs.
   EKG has been unchanged, though is Vpaced.  No CP since admission.
   Suspect demand ischemia over NSTEMI.
   - Con
t to cycle CE
   - Nitro PRN
   - Holding ASA & BB given bleed
   # Coronary artery disease: status post coronary artery bypass & PTCA
   (last in [**2156**]).  Regular angina (mult x per wk).  Had CP in ED,
   resolved w/ nitro, ASA, opiates.  No further CP
   - con't to cycle CE
   - nitro PRN
   - hold asa & BB
   - con't gemfibrazol
   # Arrythmias: h/o CHB, afib, ventricular tachycardia, now status post
   pacemaker implantable cardioverter-defibrillator (ICD) implantation.
   - monitor on tele
   # Chronic systolic CHF: ejection fraction of 25-30%.  Pt w/o signs of
   acute exacerbation.
   - hold lasix (except PRN w/ transfusions) & hold [**Last Name (un) 239**]
   - Repeat Echo (particularly to visualize AVR, since it is softer on
   auscultation than expected)
   # Hypertension: stable
   - hold anti-htn
   # Hypothyroidism: con't thyroid supplementation
   # Gout: not active
   # Emphysema: Mild on PFTs.
   - PRN albuterol
   # FEN: NPO
   # PPx: INR supratherapeutic, hold SC heparin
   ICU Care
   Nutrition: NPO
   Lines:
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Communication:  Comments:
   Code status: Full -- confirmed w/ pt & wife, [**Name (NI) 4723**] wife reports that
   pt has stated he would "not want to be kept alive by machines for
   prolonged period."
   Disposition: ICU until hct stabilizes

2160-09-02 09:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: 71 yo man w/ CAD, AVR, afib,
   h/o GIB who presents with lightheadedness, fatigue and hematocrit drop
   with no response to transfusion.  Received 3^rd unit this morning.
   24 Hour Events:
   episode of hypotension that responded to 500 cc fluid bolus
   Troponin up to .25 with normal CK MB
   Received 2 units of pRBCs. Hct inc. from 24->28.  This AM hct 26, so pt
   given 3^rd unit.
   Allergies:
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Metronidazole - [**2160-9-1**] 09:05 AM
   Vancomycin - [**2160-9-1**] 09:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-2**] 08:00 AM
   Other medications:
   Gemfibrozile
   Levothyro
   Folic acid
   pantoprozol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-2**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 65 (65 - 67) bpm
   BP: 100/61(71) {66/18(46) - 129/94(98)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 100% 3L
   Heart rhythm: AV Paced
   Height: 71 Inch
           Total In:
                                                                  2,066 mL
                                                                  1,051 mL
   PO:
           TF:
   IVF:
                                                                    447 mL
                                                                    613 mL
   Blood products:
                                                                    559 mL
                                                                    278 mL
   Total out:
                                                                  2,235 mL
                                                                    925 mL
   Urine:
                                                                  2,135 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination:
   Gen: alert conversant mildly anxious
   CV: RR mech s2, II/VI murmur
   Chest CTA
   ABd: soft NT
   Ext no edema
   Labs / Radiology
   8.9 g/dL
   133 K/uL
   101 mg/dL
   2.2 mg/dL
   20 mEq/L
   5.7 mEq/L
   130 mg/dL
   108 mEq/L
   140 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
                             [**2160-9-2**]  04:00 AM
   WBC
   7.3
   5.9
   Hct
   24.2
   28.1
   26.6
   Plt
   134
   133
   Cr
   2.5
   2.2
   2.2
   TropT
   0.10
   0.25
   Glucose
   115
   105
   101
   Other labs: PT / PTT / INR:47.1/56.1/5.3, CK / CKMB /
   Troponin-T:70/9/0.25, Alk Phos / T Bili:/0.3, LDH:258 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan: 71 yo man w/ CAD, AVR, afib, h/o GIB who presents
   with lightheadedness, fatigue and hematocrit drop with no response to
   transfusion.  Received 3^rd unit this morning.
   1)GI bleed- lilely slowly ongoing as remains transfusion dependent
   -Appreciate GI recs
 Since inr is up to 5.3 and bleeding we will give
   a single dose of Vit K 5 mg, but since he has a valve we will need to
   check TID INR and bridge with heparin if INR less than 2.0. Follow up
   with GI that still plan for no EGD. Cycle Hct q8hr. PPI. 2 PIV
   2)renal failure-Improved with fluid and blood, still hyperkalemic
   repeat and if above 5.5 again give kayexylate
   3)CV: Coumadin for valve 2.5-3 inr.  TTE pending today, will restart
   beta blocker as first line [**Doctor Last Name **] when bleeding controlled.
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:
   Lines: D
c Foley
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :ICU based on Hct level
   Total time spent: 35, critically ill

2160-09-03 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN x3, all relieved w/ SL nitro.  No EKG changes.
   - INR rose to 6.3, got vit K x2
   - Getting 4th unit PRBC today b/c hct 25 (after total of 3u).  No
   BMs/N/V.
   - Echo-->LVEF= 40-45 %
   Allergies:
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-1**] 09:05 AM
   Metronidazole - [**2160-9-1**] 09:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-2**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 65 (58 - 66) bpm
   BP: 105/51(65) {92/45(59) - 152/95(109)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 71 Inch
                  Total In:
                                                                  2,998 mL
                                                                    209 mL
   PO:
                                                                  1,620 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    671 mL
   Blood products:
                                                                    547 mL
                                                                     89 mL
   Total out:
                                                                  2,575 mL
                                                                    800 mL
   Urine:
                                                                  2,575 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    423 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: well appearing, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal),  mechanical S2, Systolic murmur, II/VI
   along LSB
   Respiratory / Chest: (Breath Sounds: Clear : , No Crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: venous stasis changes
   Skin:  feet are cool
   Neurologic: Attentive, Follows commands and answers all questions
   appropriately
   Labs / Radiology
   115 K/uL
   8.7 g/dL
   94 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   107 mg/dL
   102 mEq/L
   130 mEq/L
   25.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
                             [**2160-9-2**]  04:00 AM
                             [**2160-9-2**]  11:38 AM
                             [**2160-9-2**]  08:32 PM
                             [**2160-9-3**]  03:43 AM
   WBC
   7.3
   5.9
   3.7
   Hct
   24.2
   28.1
   26.6
   26.3
   27.8
   25.3
   Plt
   134
   133
   115
   Cr
   2.5
   2.2
   2.2
   1.8
   TropT
   0.10
   0.25
   0.26
   0.22
   0.19
   Glucose
   115
   105
   101
   94
   Other labs: PT / PTT / INR:38.6/57.2/4.2, CK / CKMB /
   Troponin-T:89/8/0.19, Alk Phos / T Bili:/0.3, LDH:258 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: ECHO: The left atrium is mildly dilated. There is symmetric
   left ventricular hypertrophy. The left ventricular cavity is mildly
   dilated. Overall left ventricular systolic function is mildly depressed
   (LVEF= 40-45 %); no definite regional wall motion abnormality is
   identified although views are technically suboptimal. The right
   ventricular cavity is dilated with normal free wall contractility. The
   aortic root is moderately dilated at the sinus level. A bileaflet
   aortic valve prosthesis is present. The transaortic gradient is upper
   normal for this prosthesis. Trace aortic regurgitation is seen. The
   mitral valve leaflets are moderately thickened. There is severe mitral
   annular calcification. Mild (1+) mitral regurgitation is seen. [Due to
   acoustic shadowing, the severity of mitral regurgitation may be
   significantly UNDERestimated.] The tricuspid valve leaflets are mildly
   thickened. The motion of the tricuspid prosthetic leaflets appears
   normal. There is mild pulmonary artery systolic hypertension. There is
   a trivial/physiologic pericardial effusion.
   Compared with the prior study (images reviewed) of [**2158-5-24**], findings
   are similar. Left ventricular ejection fraction was underestimated in
   the prior report.
   Assessment and Plan
   71 yo man w/ CAD s/p CABG, s/p mechanical AVR, afib, EF 25-30%, h/o
   GIB, chronic anemia, CKD [**2-9**] lupus nephritis, who presents with
   lightheadedness and fatigue in the setting of a drop in his hematocrit
   and acute renal failure.
   # Acute on chronic anemia: Hct 28 in ED, then 24 on repeat in MICU
   after 1L IVF.  Down from baseline of low 30s--hct was 34 about 5 days
   ago.  Pt reports dark stool over last few days. No N/V/abd pain. H/o
   duodenitis on EGD from [**2158**] & gastritis on prior.  [**Last Name (un) 236**] from [**2156**] w/
   Grade 1 internal hemorrhoids and diverticulosis of the sigmoid colon.
   In ED, G+ brown stool. Did not NG lavage in ED. Suspect pt has GIB
   given the above findings along w/ excessively elevated BUN (out of
   proportion to Crt).  Suspect UGIB rather than LGIB.  Also, of note,
   pt's INR supratherapeutic.  Hemolysis labs are negative. Pt currently
   remains HD stable.  Has been transfused a total of 5uPRBCs w/
   inappropriate response.
   - Two large bore IV
   - Will transfuse additional 1 PRBC (5^th unit) now, may need lasix
   following
   - IV PPI [**Hospital1 **]
   - F/u GI recs; current plan is to manage supportively without endoscopy
   - hold Coumadin; Vit K PRN
   -[**Hospital1 **] HCTs; transfuse for HCT <30 given CAD with episodes of CP
   #  Status post mechanical aortic valve replacement: requires regular
   anticoag.  INR 2.5-3 goal.  Currently 5.3.
   - hold Coumadin; Vit K as needed to suppress further rise in INR.  Will
   need to check [**Hospital1 **] INRs for few days to be sure pt does not undershoot.
   If INR <2-2.5, would need to start heparin.
   # Acute on chronic renal failure: suspect prerenal and related to
   GIB/poor PO intake.  Improving after IVF: 2.9
 2.5
2.2.  Baseline
   1.5-1.7 due to lupus nephritis/HTN.
   - Renally dose meds
   - hold lasix and [**Last Name (un) 239**]
   # Elevated Troponin: 0.07
0.25 in setting of flat/nml CKs.  EKG has
   been unchanged, though is Vpaced.  Few episodes of rest CP since
   admission which appears c/w with pt
s home baseline.  Suspect demand
   ischemia over NSTEMI.
   - Con
t to cycle CE
   - Nitro PRN
   - Holding ASA and BB given bleed
   #Hyponatremia: Serum Na trending down in setting of probably decreased
   blood volume, thus suspect hypovolemic hyponatremia. Pt
s diet advanced
   today thus will monitor [**Hospital1 **] for further change.
   # Coronary artery disease: status post coronary artery bypass & PTCA
   (last in [**2156**]).  Regular angina (mult x per wk).
   - con't to cycle CE
   - nitro PRN
   - hold asa, continue BB
   - con't gemfibrazol
   # Arrythmias: h/o CHB, afib, ventricular tachycardia, now status post
   pacemaker implantable cardioverter-defibrillator (ICD) implantation.
   -monitor on tele
   -continue home BB
   # Chronic systolic CHF: ejection fraction of 25-30%.  Pt w/o signs of
   acute exacerbation.
   - hold lasix (except PRN w/ transfusions) & hold [**Last Name (un) 239**]
   - Repeat Echo (particularly to visualize AVR, since it is softer on
   auscultation than expected)
   # Hypertension: stable
   - hold anti-htn
   # Hypothyroidism: con't thyroid supplementation
   # Gout: not active
   # Emphysema: Mild on PFTs.
   - PRN albuterol
   # FEN: NPO
   # PPx: INR supratherapeutic, hold SC heparin
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  sugars well controlled
   Lines:
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: anticoagulated
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2160-09-03 11:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: 71 yo man w/ CAD, AVR, afib,
   h/o GIB who presents with lightheadedness, fatigue and hematocrit drop.
   24 Hour Events: 2 additional units of PRBC and chest pain responded to
   nitro.
 TRANSTHORACIC ECHO - At [**2160-9-2**] 10:00 AM
 CHEST PAIN - At [**2160-9-2**] 03:30 PM
   Mid sternal CP [**6-17**] non radiating NTG o.3 SL, o2 3L/min Stat EKG, CP
   relief 1/10-0/10
 EKG - At [**2160-9-2**] 03:32 PM
   Allergies:
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Metronidazole - [**2160-9-1**] 09:05 AM
   Vancomycin - [**2160-9-1**] 09:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-2**] 12:00 PM
   Other medications:
   Levothyroxine 125
   Protonix
   Folic acid
   Gemfibrazile 60mg
   trazedone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 65 (65 - 66) bpm
   BP: 109/63(75) {92/45(59) - 152/95(109)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 71 Inch
                  Total In:
                                                                  2,998 mL
                                                                    869 mL
   PO:
                                                                  1,620 mL
                                                                    590 mL
   TF:
   IVF:
                                                                    671 mL
   Blood products:
                                                                    547 mL
                                                                    279 mL
   Total out:
                                                                  2,575 mL
                                                                  1,550 mL
   Urine:
                                                                  2,575 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    423 mL
                                                                   -681 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen: alert conversant mildly anxious CV: RR mech s2, II/VI murmur Chest
   CTA ABd: soft NT Ext trace edema
   Labs / Radiology
   8.7 g/dL
   115 K/uL
   94 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.7 mEq/L
   107 mg/dL
   102 mEq/L
   130 mEq/L
   25.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
                             [**2160-9-2**]  04:00 AM
                             [**2160-9-2**]  11:38 AM
                             [**2160-9-2**]  08:32 PM
                             [**2160-9-3**]  03:43 AM
   WBC
   7.3
   5.9
   3.7
   Hct
   24.2
   28.1
   26.6
   26.3
   27.8
   25.3
   Plt
   134
   133
   115
   Cr
   2.5
   2.2
   2.2
   1.8
   TropT
   0.10
   0.25
   0.26
   0.22
   0.19
   Glucose
   115
   105
   101
   94
   Other labs: PT / PTT / INR:38.6/57.2/4.2, CK / CKMB /
   Troponin-T:89/8/0.19, Alk Phos / T Bili:/0.3, LDH:258 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   71 yo man w/ CAD, AVR, afib, h/o GIB who presents with lightheadedness,
   fatigue and hematocrit drop with no response to transfusion.  Received
   total 5units PRBC since admission.
   1)GI bleed- lilely slowly ongoing as remains transfusion dependent
   -Appreciate GI recs
 Since inr is 4.2 and bleeding patient given a
   single dose of Vit K 5 mg last night, [**Month (only) 60**] consider bridge with heparin
   if INR less than 2.0. Follow up with GI that still plan for no EGD.
   Cycle Hct q8hr. PPI. 2 PIV
   2)renal failure-Improved with fluid and blood, hyperkalemia improved
   3)CV: Coumadin for valve 2.5-3 inr.  TTE unremarkable will restart beta
   Blocker.  Lasix if needed with transfusions.  Transfusion goal Hct >30
   4)Hyponatremia-Suspected secondary to volume. Will follow.
   5)FEN: advance diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: Coumadine
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2160-09-04 05:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received 2 units PRBC yesterday, hct increased from 25.3 to 29.5.
   INR decreased to 1.8, heparin gtt started
   GI recommends outpatient capsule endoscopy
   Added metoprolol back on
   Allergies:
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-1**] 09:05 AM
   Metronidazole - [**2160-9-1**] 09:05 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-3**] 11:00 PM
   Other medications:
   Flowsheet Data as of  [**2160-9-4**] 05:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 65 (65 - 65) bpm
   BP: 116/76(84) {85/35(58) - 141/115(120)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  1,777 mL
                                                                     43 mL
   PO:
                                                                  1,090 mL
             TF:
   IVF:
                                                                    130 mL
                                                                     43 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  2,300 mL
                                                                    500 mL
   Urine:
                                                                  2,300 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: well appearing, NAD, a&ox3
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal),  mechanical S2, Systolic murmur, II/VI
   along LSB
   Respiratory / Chest: (Breath Sounds: Clear : , No Crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: venous stasis changes
   Skin:  feet are warm
   Neurologic: Attentive, Follows commands and answers all questions
   appropriately
   Labs / Radiology
   115 K/uL
   8.7 g/dL
   108 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.3 mEq/L
   95 mg/dL
   106 mEq/L
   135 mEq/L
   29.5 %
   3.7 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
                             [**2160-9-2**]  04:00 AM
                             [**2160-9-2**]  11:38 AM
                             [**2160-9-2**]  08:32 PM
                             [**2160-9-3**]  03:43 AM
                             [**2160-9-3**]  07:03 PM
   WBC
   7.3
   5.9
   3.7
   Hct
   24.2
   28.1
   26.6
   26.3
   27.8
   25.3
   29.5
   Plt
   134
   133
   115
   Cr
   2.5
   2.2
   2.2
   1.8
   1.7
   TropT
   0.10
   0.25
   0.26
   0.22
   0.19
   0.14
   Glucose
   115
   105
   101
   94
   108
   Other labs: PT / PTT / INR:19.8/37.9/1.8, CK / CKMB /
   Troponin-T:116/6/0.14, Alk Phos / T Bili:/0.3, Albumin:3.2 g/dL,
   LDH:258 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   71 yo man w/ CAD s/p CABG, s/p mechanical AVR, afib, EF 25-30%, h/o
   GIB, chronic anemia, CKD [**2-9**] lupus nephritis, who presents with
   lightheadedness and fatigue in the setting of a drop in his hematocrit
   and acute renal failure.
   # Acute on chronic anemia: Hct 28 in ED, then 24 on repeat in MICU
   after 1L IVF.  Down from baseline of low 30s--hct was 34 about 5 days
   ago.  Pt reports dark stool over last few days. No N/V/abd pain. H/o
   duodenitis on EGD from [**2158**] & gastritis on prior.  [**Last Name (un) 236**] from [**2156**] w/
   Grade 1 internal hemorrhoids and diverticulosis of the sigmoid colon.
   In ED, G+ brown stool. Did not NG lavage in ED. Suspect pt has GIB
   given the above findings along w/ excessively elevated BUN (out of
   proportion to Crt).  Suspect UGIB rather than LGIB.  Also, of note,
   pt's INR supratherapeutic.  Hemolysis labs are negative. Pt currently
   remains HD stable.  Has been transfused a total of 6uPRBCs w/
   incomplete response.
   - Two large bore IV
   - Transfuse for hct <27
   - IV PPI [**Hospital1 **]
   - F/u GI recs; current plan is to manage supportively without
   endoscopy
will likely need outpatient capsule study
   - restarting anti-coagulation
   -[**Hospital1 **] HCTs
   #  Status post mechanical aortic valve replacement: requires regular
   anticoag.  INR 2.5-3 goal.  Currently 5.3.
   - con
t heparin gtt (started last PM for INR<2), start coumadin 2mg
   daily (will likely need to be on 2mg alternating w/ 1mg schedule as
   prior dosing made him supratherapeutic).  [**Month (only) 60**] also need to make INR
   goal less aggressive, ie, [**2-10**], though will need to d/w his
   cardiologist, Dr. [**Last Name (STitle) 1137**]
   # Acute on chronic renal failure: Resolved.  Suspect was prerenal and
   related to GIB/poor PO intake.  Improving after IVF: 2.9
 2.5
1.4.
   Baseline 1.5-1.7 due to lupus nephritis/HTN.
   - Renally dose meds
   - restart lasix, but hold [**Last Name (un) 239**] for another day
   # Elevated Troponin: Trop peaked at 0.25, now trending dow. CK
   nml/flat.  EKG has been unchanged, though is Vpaced.  Few episodes of
   rest CP since admission which appears c/w with pt
s home baseline.
   Suspect demand ischemia over NSTEMI.
   - Hold ASA for now given bleed
   #Hyponatremia: Resolved.  Serum Na trending down in setting of probably
   decreased blood volume, thus suspect hypovolemic hyponatremia. Pt
   diet advanced today thus will monitor [**Hospital1 **] for further change.
   # Coronary artery disease: status post coronary artery bypass & PTCA
   (last in [**2156**]).  Regular angina (mult x per wk).
   - nitro PRN
   - hold asa, continue BB (getting metop tartrate, though on succinate at
   home)
   - con't gemfibrazol
   # Arrythmias: h/o CHB, afib, ventricular tachycardia, now status post
   pacemaker implantable cardioverter-defibrillator (ICD) implantation.
   -monitor on tele
   -continue home BB
   # Chronic systolic CHF: ejection fraction of 25-30% in [**2158**], now 40% on
   this hosp stay.  Pt w/o signs of acute exacerbation.
   - restart lasix (except PRN w/ transfusions) & hold [**Last Name (un) 239**]
   # Hypertension: stable
   - hold anti-htn
   # Hypothyroidism: con't thyroid supplementation
   # Gout: not active
   # Emphysema: Mild on PFTs.
   - PRN albuterol
   # PPx: on heparin gtt
   ICU Care
   Nutrition: Resumed PO
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: hep gtt
   Communication:  Comments:
   Code status: Full code
   Disposition: call-out of ICU

2160-09-04 11:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: 71 yo man w/ CAD, AVR, afib,
   h/o GIB who presents with lightheadedness, fatigue and hematocrit drop.
   24 Hour Events: received total of 2units of PRBC yesterday and started
   on heprin drip for subtherapeutic INR.
   Allergies:
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   elevated CK ;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-9-3**] 11:00 PM
   Other medications:
   Synthroid
   Protonix q 12
   Folic acid
   Lopid
   Trazadone
   Metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-4**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 65 (65 - 66) bpm
   BP: 117/74(84) {85/35(58) - 145/115(120)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  1,777 mL
                                                                    212 mL
   PO:
                                                                  1,090 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    130 mL
                                                                    112 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  2,300 mL
                                                                    700 mL
   Urine:
                                                                  2,300 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   Physical ExaminationGen: alert conversant mildly anxious CV: RR mech
   s2, II/VI murmur Chest CTA ABd: soft NT Ext trace edema
   Labs / Radiology
   9.9 g/dL
   126 K/uL
   100 mg/dL
   1.4 mg/dL
   20 mEq/L
   5.0 mEq/L
   78 mg/dL
   109 mEq/L
   136 mEq/L
   28.6 %
   3.8 K/uL
        [image002.jpg]
                             [**2160-9-1**]  12:22 PM
                             [**2160-9-1**]  10:29 PM
                             [**2160-9-2**]  04:00 AM
                             [**2160-9-2**]  11:38 AM
                             [**2160-9-2**]  08:32 PM
                             [**2160-9-3**]  03:43 AM
                             [**2160-9-3**]  07:03 PM
                             [**2160-9-4**]  04:34 AM
   WBC
   7.3
   5.9
   3.7
   3.8
   Hct
   24.2
   28.1
   26.6
   26.3
   27.8
   25.3
   29.5
   28.6
   Plt
   134
   133
   115
   126
   Cr
   2.5
   2.2
   2.2
   1.8
   1.7
   1.4
   TropT
   0.10
   0.25
   0.26
   0.22
   0.19
   0.14
   Glucose
   115
   105
   101
   94
   108
   100
   Other labs: PT / PTT / INR:18.1/150.0/1.7, CK / CKMB /
   Troponin-T:116/6/0.14, Alk Phos / T Bili:/0.3, Albumin:3.2 g/dL,
   LDH:258 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan71 yo man w/ CAD, AVR, afib, h/o GIB who presents
   with lightheadedness, fatigue and hematocrit drop with improved
   response to transfusion.  Received total 6units PRBC since admission.
   1) GI bleed- likely slowly ongoing as remains transfusion dependent
   -Appreciate GI recs
 Since inr is 1.7 started heprin drip follow PTTs
   2) Renal failure-Improved with fluid and blood, hyperkalemia improved
   3) CV: Coumadin 2mg qday for valve goal INR was 2.5-3 suspect may
   benefit from lower goal [**2-10**]
 needs discussion with Dr [**Last Name (STitle) 1137**]. TTE
   unremarkable will restart beta Blocker.   Transfusion goal Hct >30 will
   transfuse for less than 27.  Can restart lasix.  Holding asprin.
   4) Hyponatremia- improved.
   5) FEN: continue cardiac diet.
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-9-1**] 10:20 AM
   20 Gauge - [**2160-9-1**] 01:26 PM
   Prophylaxis:
   DVT: Heprin drip
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Floor